US08349849B2
Ethyl 2-amino-2-(6-heptyloxyquinolin-2-yl)propanoate
Ethyl 2-(6-heptyloxyquinolin-2-yl)-2-nitropropanoate (325.0 mg, 0.0008366 mol) was dissolved in acetic acid (5 mL, 0.09 mol), and cooled to at 10° C., followed by zinc (547.1 mg, 0.008366 mol;) in very small portions to keep the temperature constant. The reaction mixture was then allowed to stir for additional for 5 hours, and filtered through a Celite pad. The excess is of solvents were removed under vacuum, and the residue was purified via HPLC (10-100% acetonitrile with 0.1% formic acid) to give a pure product (57.0 mg, 14%). 1H NMR (CHLOROFORM-d) δ: 8.05 (d, J=8.5 Hz, 1H), 7.94 (d, J=9.3 Hz, 1H), 7.57 (d, J=8.5 Hz, 1H), 7.36 (dd, J=9.3, 2.5 Hz, 1H), 7.06 (d, J=2.5 Hz, 1H), 4.20 (q, J=7.0 Hz, 2H), 4.07 (t, J=6.5 Hz, 2H), 1.77-1.93 (m, 5H), 1.44-1.57 (m, 2H), 1.28-1.44 (m, 6H), 1.22 (t, J=7.2 Hz, 3H), 0.90 (t, J=6.8 Hz, 3H). MS (M+1): 359.30.

reactant | Ethyl 2-(6-heptyloxyquinolin-2-yl)-2-nitropropanoate | 0.0008366 mol, 325.0 mg | C(CCCCCC)OC=1C=C2C=CC(=NC2=CC1)C(C(=O)OCC)(C)[N+](=O)[O-] | C21H28N2O5
reactant | acetic acid | 0.09 mol, 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.008366 mol, 547.1 mg | [Zn] | Zn
product | Ethyl 2-amino-2-(6-heptyloxyquinolin-2-yl)propanoate | 57.0 mg, 14% | NC(C(=O)OCC)(C)C1=NC2=CC=C(C=C2C=C1)OCCCCCCC | C21H30N2O3
